US07834009B2
d) N-{3-[1-(4-Fluoro-benzyl)-4-hydroxy-5-methyl-5-(3-methyl-butyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
A solution of 2-[(4-fluoro-benzylamino)-methyl]-2,5-dimethyl-hexanoic acid ethyl ester (93 mg, 0.30 mmol), (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid (100 mg, 0.30 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (60 mg, 0.315 mmol) in anhydrous N,N-dimethyformamide (4 mL) was treated with N-methyl morpholine (0.069 mL, 0.63 mmol). The reaction was stirred under a nitrogen environment at 25° C. for 1 h, quenched with a 1.0 M aqueous hydrochloric acid solution (50 mL), extracted with ethyl acetate (2×50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting oil was dissolved in ethanol (5 mL) and treated with a 60% oil dispersion of sodium hydride (48 mg, 2.0 mmol). The reaction was heated at 60° C. under a nitrogen environment for 1.5 h. The reaction mixture was allowed to cool to 25° C., quenched with a 0.5 M aqueous hydrochloric acid solution (50 mL), extracted with ethyl acetate (2×50 mL), washed with brine (50 mL), dried with sodium sulfate, filtered, and concentrated in vacuo. The crude resin was purified by flash column chromatography (ISCO RediSep column, 0 to 100% ethyl acetate in hexanes) to afford the desired product, N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-5-methyl-5-(3-methyl-butyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}methanesulfonamide (67 mg, 38%), as a white solid. 1H NMR (400 MHz, CDCl3) δ: 0.81 (t, 6H, J=7.0 Hz), 0.87-1.04 (m, 3H), 1.14 (s, 3H), 1.23-1.56 (m, 4H), 3.06 (s, 3H), 3.15 (q, 2H, J=11.4 Hz), 4.62 (dd, 2H, J1=115.3 Hz, J2=14.7, Hz), 7.03-7.10 (m, 2H), 7.18-7.30 (m, 3H), 7.62-7.71 (m, 2H). LC-MS (ESI) calculated for C26H31FN4O6S2: 578.6, found 579.2 [M+H+].

reactant | 2-[(4-fluoro-benzylamino)-methyl]-2,5-dimethyl-hexanoic acid ethyl ester | 0.30 mmol, 93 mg | C(C)OC(C(CCC(C)C)(C)CNCC1=CC=C(C=C1)F)=O | C18H28FNO2
reactant | (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid | 0.30 mmol, 100 mg | CS(=O)(=O)NC1=CC2=C(NC(=NS2(=O)=O)CC(=O)O)C=C1 | C10H11N3O6S2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.315 mmol, 60 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methyl morpholine | 0.63 mmol, 0.069 mL | CN1CCOCC1 | C5H11NO
reactant | sodium hydride | 2.0 mmol, 48 mg | [H-].[Na+]
solvent | N,N-dimethyformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-5-methyl-5-(3-methyl-butyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}methanesulfonamide | 67 mg, 38% | FC1=CC=C(CN2C(C(=C(C(C2)(CCC(C)C)C)O)C2=NS(C3=C(N2)C=CC(=C3)NS(=O)(=O)C)(=O)=O)=O)C=C1 | C26H31FN4O6S2
